2154-08-13 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2154-8-12**] 04:00 PM
 SPUTUM CULTURE - At [**2154-8-12**] 06:51 PM
 SPUTUM CULTURE - At [**2154-8-12**] 09:04 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-8-13**] 05:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-8-12**] 08:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-8-13**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 69 (68 - 105) bpm
   BP: 116/48(63) {84/35(52) - 129/74(80)} mmHg
   RR: 15 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,894 mL
                                                                    586 mL
   PO:
             TF:
   IVF:
                                                                  1,734 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                    499 mL
                                                                    234 mL
   Urine:
                                                                    499 mL
                                                                    234 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,395 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 173
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.30/52/84.[**Numeric Identifier 1625**]/24/-1
   Ve: 8.8 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   10.3 g/dL
   132 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.6 mEq/L
   15 mg/dL
   111 mEq/L
   142 mEq/L
   31.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2154-8-12**]  06:29 PM
                             [**2154-8-12**]  08:48 PM
                             [**2154-8-12**]  10:00 PM
                             [**2154-8-13**]  04:13 AM
   WBC
   6.5
   9.3
   9.6
   Hct
   28.2
   35.1
   31.3
   Plt
   140
   201
   172
   Cr
   0.4
   0.6
   TCO2
   27
   Glucose
   114
   132
   Other labs: CK / CKMB / Troponin-T:23//, ALT / AST:[**10-30**],
   Differential-Neuts:60.0 %, Band:28.0 %, Lymph:6.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:3.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.5 mg/dL,
   Mg++:2.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   84 yo F with PMH of alzheimer's type dementia, recent hospitalizations
   for PNA and UTI who was admitted following episode of hypoxia and
   cyanosis.
   .
   #Hypoxic respiratory failure - unclear etiology, possible causes
   include flash pulmonary edema given evidence of vascular congestion on
   CXR.  Possible preciptants of pulmonary edema could be hypertension,
   acute myocardial ischemia/infarction, anxiety/agitation.  COPD
   exacerbation also possible and was initial diagnosis in ED, initially
   seemed to respond to nebs in the ED however following developed
   recurrant respiratory distress and was intubated.  Pneumonia is another
   possible cause given question of lower lobe infiltrate on CXR and thick
   secretions suctioned from trach as well as bandemia.  Pulmonary
   embolism is also on the differential however less likely explanation
   than above mentioned causes.  She was intubated in the ED due to
   concern for increased work of breathing and tachypnea/hypoxia.
   -continue to treat for PNA with vancomycin and zosyn (given two recent
   hospitalizaiton, current rehab resident and recent course of
   ciprofloxacin)
   -follow up blood cultures, sputum cultures
   -continue with mechanical ventillation overnight
   -RSBI/SBT in AM
   -check ABG
   -continue with albuterol/atrovent MDI
   -hold off on additional steroids for now as no significant wheezing on
   exam
   .
   #Bandemia - concerning for acute infection, with most likely cause at
   this time either UTI given dirty UA or pneumonia given possible
   infiltrate, hypoxia and thick secretions being suctioned from ET tube.
   On review of recent micro data it appears that her recent morganella
   uti was resistant to ciprofloxacin with which she was treated, which is
   concerning that she could have an untreated UTI as cause of her
   bandemia.
   -continue with vancomycin and zosyn to cover for possible PNA
   -morganella species from recent UTI with intermediate sensitivity to
   zosyn, good sensitivity to ceftriaxone; will consider changing to
   cefepime which would cover pseudomonas and her UTI in AM
   -f/u sputum, blood, urine cultures
   -send C.diff if diarrhea
   .
   #Hypotension - on arrival to ICU blood pressure decreased to SBP 80's -
   90's, however she continued to have good urine output with about
   50-60cc's/hour after getting total of 4L IVF since admission.
   -continue to monitor BP
   -hold off on additional IVF for now given concern for element of
   pulmonary edema
   -monitor urine output (if drops to less than 0.5 cc/kg/hr will consider
   additional IVF vs possibility of SIRS/Sepsis)
   .
   #Dementia/Delirium - she has had progressive decline since her recent
   hospitalization in [**6-13**] with likely superimposed delirium [**3-9**] acute
   medical illness.
   -will hold on her namenda for now
   -reorientation as possible
   .
   #h/o Hypertension - hypotensive on admission with good urine output
   -hold metoprolol
   .
   #Hypernatremia - most likely hypovolemic hypernatremia likely with
   component of free water defecit as well
   -repeat Na after IVF given in ED
   -replete free water with D5 (will hold off on NGT fluids pending
   RSBI/SBT in AM)
   .
   #Paroxysmal atrial fibrillation - in NSR on admission
   -holding metoprolol given concern for possible SIRS/Sepsis and
   borderline hypotension
   -continue aspirin (not on coumadin)
   .
   #Tremor - evaluated by neurology during her recent admission, felt most
   likely essential tremor.  No seizure activity on EEG.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2154-8-12**] 05:38 PM
   20 Gauge - [**2154-8-12**] 05:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-08-14 07:07:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure
   24 Hour Events:  Converted to Afib @ 0400, HR 80
s-100
s, 130
s with
   stimulation, BP
s 90-110
s/40-50s. Patient on lopressor 100 mg PO BID
   as outpatient; lopressor 12.5 mg PO x 1 given
   TF held @ 0730 in anticipation of possible extubation today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2154-8-14**] 05:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-8-14**] 12:09 AM
   Midazolam (Versed) - [**2154-8-14**] 06:42 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies CP, abd pain, SOB, N/V
   Flowsheet Data as of  [**2154-8-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 104 (58 - 104) bpm
   BP: 114/51(66) {59/40(51) - 137/67(75)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  1,473 mL
                                                                    306 mL
   PO:
             TF:
                                                                     38 mL
                                                                    135 mL
   IVF:
                                                                  1,315 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    862 mL
                                                                    318 mL
   Urine:
                                                                    862 mL
                                                                    318 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    611 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 424 (93 - 430) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.38/43/91.[**Numeric Identifier 96**]/28/0
   Ve: 9.6 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: intubated, awake, anxious, follows commands
   HEENT: EOMI, PERRL
   CV: irreg irreg nl S1S2 no m/r/g
   Lungs: right basilar crackles, no wheeze
   ABD: soft, NT, ND BS + no guarding
   Ext: cool, dry no pedal edema or cyanosis, +PP
   Labs / Radiology
   187 K/uL
   10.0 g/dL
   96 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   15 mg/dL
   107 mEq/L
   142 mEq/L
   30.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2154-8-12**]  06:29 PM
                             [**2154-8-12**]  08:48 PM
                             [**2154-8-12**]  10:00 PM
                             [**2154-8-13**]  04:13 AM
                             [**2154-8-13**]  09:43 AM
                             [**2154-8-14**]  05:53 AM
   WBC
   6.5
   9.3
   9.6
   9.2
   Hct
   28.2
   35.1
   31.3
   30.1
   Plt
   140
   201
   172
   187
   Cr
   0.4
   0.6
   0.7
   TropT
   <0.01
   TCO2
   27
   26
   Glucose
   114
   132
   96
   Other labs: CK / CKMB / Troponin-T:23/3/<0.01, ALT / AST:[**10-30**],
   Differential-Neuts:60.0 %, Band:28.0 %, Lymph:6.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   84 yo F with Alzheimer
s , recent hospitalizations for PNA and UTI
   intubated for hypoxic respiratory failure in the setting of PNA.
   .
   #Hypoxic respiratory failure [**3-9**] PNA
 Significant bandemia on
   admission and copious purulent secretions point to a bacterial
   etiology.
   -cont full vent support with versed bolus sedation
   -cont. broad spectrum cov
g for HC-assoc. PNA with vancomycin and zosyn
   while awaiting culture data
   -blood, sputum Cx pending
   - albuterol/atrovent MDI
   .
   # UTI
 morganella cultured from urine during most recent admission;
   despite reported resistance to cipro, which was used to the treat the
   infection, high levels likely achieved in urine, and degree of pyuria
   now diminished
   -already on broad-spectrum ABX for PNA
   .
   #Hypotension - on arrival to ICU blood pressure decreased to SBP 80's -
   90's, has cont. to have adequate UOP, +5L [**Location 3523**] bolus PRN to maintain UOP > 30-40 cc/hr, avoiding additional
   maintenance fluids which will worsen positive volume balance prior to
   extubation
   .
   #AD
 prog. decline since her recent hospitalization in [**6-13**] with
   likely superimposed delirium [**3-9**] acute medical illness.
   -will hold on her namenda for now, reorientation PRN, bolus sedation to
   maintain comfort on vent
   .
   #HTN
   -holding metoprolol given hypotension
   .
   #Hypernatremia
 resolved with correction of free water deficit
   .
   #PAF
 has remained in sinus
   -continue aspirin (not on coumadin)
   .
   #Tremor - evaluated by neurology during a recent admission, felt most
   likely essential tremor.  No seizure activity on EEG.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2154-8-13**] 08:15 PM 30 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2154-8-12**] 05:38 PM
   20 Gauge - [**2154-8-12**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-08-15 07:18:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, PNA
   24 Hour Events:
   Rec'd half dose (12.5 mg PO) lopressor @ [**8-14**] PM for BP 90's/40s
   TF held @ 0400 anticipating SBT
   Lasix 10 mg IV x 1 @ 0630 since +5 L LOS, monitoring for response
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-8-14**] 11:53 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-8-15**] 02:02 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2154-8-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2154-8-15**] 12:00 AM
   Midazolam (Versed) - [**2154-8-15**] 06:09 AM
   Furosemide (Lasix) - [**2154-8-15**] 06:24 AM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-8-15**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 78 (58 - 128) bpm
   BP: 126/48(65) {77/35(49) - 132/76(105)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,118 mL
                                                                    261 mL
   PO:
             TF:
                                                                    178 mL
                                                                    122 mL
   IVF:
                                                                    830 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,179 mL
                                                                    285 mL
   Urine:
                                                                  1,179 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -61 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (300 - 402) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 99%
   ABG: ////
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Awake, alert, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Labs / Radiology
   187 K/uL
   10.0 g/dL
   96 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   15 mg/dL
   107 mEq/L
   142 mEq/L
   30.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2154-8-12**]  06:29 PM
                             [**2154-8-12**]  08:48 PM
                             [**2154-8-12**]  10:00 PM
                             [**2154-8-13**]  04:13 AM
                             [**2154-8-13**]  09:43 AM
                             [**2154-8-14**]  05:53 AM
   WBC
   6.5
   9.3
   9.6
   9.2
   Hct
   28.2
   35.1
   31.3
   30.1
   Plt
   140
   201
   172
   187
   Cr
   0.4
   0.6
   0.7
   TropT
   <0.01
   TCO2
   27
   26
   Glucose
   114
   132
   96
   Other labs: CK / CKMB / Troponin-T:23/3/<0.01, ALT / AST:[**10-30**],
   Differential-Neuts:60.0 %, Band:28.0 %, Lymph:6.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**8-12**] Urine Cx - E. Coli > 100K org/ml
   [**8-14**] Sputum GS - 2 + GPC in pairs
   Assessment and Plan
   84 yo F with Alzheimer
s, PAF a/w hypoxic respiratory failure in the
   setting of PNA, and UTI.
   .
   #Hypoxic respiratory failure - [**3-9**] PNA, afebrile with nl WBC, but still
   has copious purulent secretions; sputum GS 2+ GPC in pairs
   -cont. PSV 12/5 as secretions & poor cough reflex remain barriers to
   extubation; holding TF for SBT
   -versed bolus prn agitation
   -cont. vanco/zosyn (day 4), azithro (day 2) for atypicals until
   speciation/sensitivity data available (tx 14 day course)
   -vanco trough pending
   -legionella urinary AG pending
   -albulterol MDI PRN
   .
   # UTI
 Cx + E. Coli; sensitive to zosyn, which is being used for PNA
   cov
   .
   #Afib
 likely convered in the setting of PNA, spontaneously reverted
   to SR, rate better controlled with B-blocker on board
   -cont. lopressor 50 mg PO TID; may uptitrate to equiv. of outpatient
   dose 100 PO BID as BP allows
   -consider initiation of anticoagulation; currently on ASA only
   .
   #HTN
 has been hypo- to normotensive
   -restarted lopressor, may uptitrate as BP allows
   .
   #Tremor - evaluated by neurology during a recent admission, felt most
   likely essential tremor.  No seizure activity on EEG.
   .
   #F/E/N - +5 L for [**Location 3549**] goal: -2 L x 24 hrs, monitor response to low-dose lasix,
   uptitrate as needed
   -cont. TF
   .
   #PPx
 SQH, PPI
   .
   #CODE - FULL
   ICU Care
   Nutrition: Nutren Pulm TF
   Glycemic Control:  Insulin infusion
   Lines: PIV
   20 Gauge - [**2154-8-14**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2154-08-16 06:35:00 Physician Resident Progress Note
Chief Complaint: Hypoxic respiratory failure
   24 Hour Events:
   Patient received lasix 10 mg IV x 3 @ 0600, [**2091**], 0200, made ~4L urine,
   was -1.4L in the last 24 hrs. and now only +2.7L LOS.
   TF held O/N in anticipation of extubation
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-8-15**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-8-16**] 01:38 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2154-8-15**] 09:59 PM
   Heparin Sodium (Prophylaxis) - [**2154-8-15**] 11:31 PM
   Furosemide (Lasix) - [**2154-8-16**] 01:38 AM
   Other medications:
   Changes to medical and family history:
   After discussion with patient's son, her HCP, it was clear that she
   should remain DNR but OK to reintubate.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-8-16**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 85 (60 - 117) bpm
   BP: 100/43(55) {90/30(49) - 126/83(86)} mmHg
   RR: 27 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.1 kg (admission): 43.7 kg
   Height: 63 Inch
             Total In:
                                                                  1,636 mL
                                                                    110 mL
   PO:
             TF:
                                                                    446 mL
   IVF:
                                                                    690 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  3,015 mL
                                                                    980 mL
   Urine:
                                                                  3,015 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,379 mL
                                                                   -871 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 282 (253 - 327) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 7 cmH2O
   SpO2: 99%
   ABG: 7.51/43/87.[**Numeric Identifier 244**]/30/9
   Ve: 5.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen: intubated, awake, alert, follows commands
   HEENT: EOMI, PERRL
   CV: RRR nl S1S2 no m/r/g
   Lungs: right basilar crackles, no wheeze
   ABD: soft, NTND +BS, no guarding
   Ext: warm dry no pedal edema or cyanosis, +PP
   Labs / Radiology
   193 K/uL
   10.2 g/dL
   88 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   9 mg/dL
   97 mEq/L
   138 mEq/L
   30.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2154-8-12**]  06:29 PM
                             [**2154-8-12**]  08:48 PM
                             [**2154-8-12**]  10:00 PM
                             [**2154-8-13**]  04:13 AM
                             [**2154-8-13**]  09:43 AM
                             [**2154-8-14**]  05:53 AM
                             [**2154-8-15**]  06:08 AM
                             [**2154-8-15**]  05:43 PM
                             [**2154-8-16**]  05:20 AM
   WBC
   6.5
   9.3
   9.6
   9.2
   10.3
   Hct
   28.2
   35.1
   31.3
   30.1
   30.0
   Plt
   140
   201
   172
   187
   193
   Cr
   0.4
   0.6
   0.7
   0.6
   0.7
   TropT
   <0.01
   TCO2
   27
   26
   36
   Glucose
   114
   132
   96
   81
   91
   88
   Other labs: CK / CKMB / Troponin-T:23/3/<0.01, ALT / AST:[**10-30**],
   Differential-Neuts:60.0 %, Band:28.0 %, Lymph:6.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Microbiology: [**8-14**] - Sputum GS - GPC in pairs
   [**8-14**] Legionella Uag - neg
   [**8-12**] UCx - E. Coli
   Assessment and Plan
   84 yo F with Alzheimer
s, PAF a/w hypoxic respiratory failure in the
   setting of PNA, and UTI.
   .
   #Hypoxic respiratory failure - [**3-9**] PNA, Clinically improved, afebrile
   with nl WBC, has diminished secretions that are less purulent; sputum
   GS 2+ GPC in pairs; cough reflex with stimulation; diuresis should
   improve hemodynamics peri-extubation
   -comfortable on PSV; try on [**6-10**] f/b weaning trial and extubation today
   -cont. vanco/zosyn (day [**6-19**]), azithro (day [**4-10**]) for atypicals
   -albuterol MDI PRN
   .
   # UTI
 Cx + E. Coli; sensitive to zosyn (completing a 14 day course
   for PNA)
   .
   #Afib
 likely converted in the setting of PNA and volume overload,
   spontaneously reverted to SR
   -cont. lopressor 25 mg PO TID for rate control, may uptitrate as needed
   to achieve adeq. rate control
   -would be in favor of initiating anticoagulation with lovenox bridge to
   coumadin; currently on ASA only
   .
   #HTN
 has been hypo- to normotensive
   -restarted lopressor, may uptitrate as BP allows (was on 100 mg PO BID
   as outpt)
   .
   #Tremor - evaluated by neurology during a recent admission, felt most
   likely essential tremor.  No seizure activity on EEG.
   .
   #F/E/N - +2.7 L for [**Location 3549**] goal: -1 to 1.5 L x 24 hrs; patient has had good response to
   low-dose lasix; give another 10 mg IV x 1 this AM
   -monitor lytes [**Hospital1 **]
   -cont. TF
s (being held for extubation)
 Probalance goal 40 cc/hr
   .
   #PPx
 SQH, PPI
   .
   #CODE - DNR
   ICU Care
   Nutrition: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2154-8-14**] 01:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Present for key portions of history and exam.  RSBI adequate and she
   was comfortable during SBT so we have extubated. Initially v
   tachypneic. We supported with mask ventilation and she is now somewhat
   more comfortable. Still tenuous.
   Time spent: 60min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2154-8-16**] 17:44 ------

2154-08-17 07:24:00 Physician Resident Progress Note
Chief Complaint: respiratory failure.
   84 yo F with Alzheimer
s, PAF a/w hypoxic respiratory failure in the
   setting of PNA, and UTI.
   24 Hour Events:
   Extubated yesterday morning
 done well off vent.
   No events overnight
   SUBJECTIVE:
   Patient reports breathing comfortably.  She denies any
   SOB/cough/fever/chills/pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-8-16**] 09:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2154-8-17**] 02:19 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-8-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-8-17**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 70 (58 - 102) bpm
   BP: 127/92(68) {89/45(55) - 145/106(103)} mmHg
   RR: 19 (8 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.1 kg (admission): 43.7 kg
   Height: 63 Inch
             Total In:
                                                                    901 mL
                                                                    300 mL
   PO:
                                                                    220 mL
             TF:
   IVF:
                                                                    501 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,806 mL
                                                                    184 mL
   Urine:
                                                                  2,806 mL
                                                                    184 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,905 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   Physical Examination
   Gen:  pleasantly demented, lying comfortably in bed
   Lungs: CTA in all lung fields
   CV: RRR, S1 & S2 nl, no m/r/g
   ABD: +bs, soft, non-tender
   Ext: warm, dry, 2+ radial pulses bilat
   Labs / Radiology
   236 K/uL
   11.3 g/dL
   89 mg/dL
   0.8 mg/dL
   32 mEq/L
   4.8 mEq/L
   9 mg/dL
   104 mEq/L
   145 mEq/L
   33.9 %
   9.0 K/uL
        [image002.jpg]
                             [**2154-8-12**]  08:48 PM
                             [**2154-8-12**]  10:00 PM
                             [**2154-8-13**]  04:13 AM
                             [**2154-8-13**]  09:43 AM
                             [**2154-8-14**]  05:53 AM
                             [**2154-8-15**]  06:08 AM
                             [**2154-8-15**]  05:43 PM
                             [**2154-8-16**]  05:20 AM
                             [**2154-8-16**]  03:01 PM
                             [**2154-8-17**]  04:01 AM
   WBC
   9.3
   9.6
   9.2
   10.3
   9.0
   Hct
   35.1
   31.3
   30.1
   30.0
   33.9
   Plt
   [**Telephone/Fax (3) 3565**]93
   236
   Cr
   0.6
   0.7
   0.6
   0.7
   0.8
   0.8
   TropT
   <0.01
   TCO2
   27
   26
   36
   Glucose
   132
   96
   81
   91
   88
   84
   89
   Other labs: CK / CKMB / Troponin-T:23/3/<0.01, ALT / AST:[**10-30**],
   Differential-Neuts:60.0 %, Band:28.0 %, Lymph:6.0 %, Mono:1.0 %,
   Eos:0.0 %, Lactic Acid:2.0 mmol/L, Albumin:3.1 g/dL, Ca++:9.0 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR - [**2154-8-17**] - compared to yesterday new blunting of the
   right CP angle. likely atelectatsis/infiltrate.  appearance not
   consistent with fluid.
   Microbiology: sputum cx neg x2
   urine legionella neg
   blood cx pending x2 -  NGTD
   Assessment and Plan
   84 yo F with Alzheimer
s, PAF a/w hypoxic respiratory failure in the
   setting of PNA, and UTI.
   #Hypoxic respiratory failure - [**3-9**] PNA, Clinically improved, afebrile,
   breathing comfortably off vent overnight; sputum GS 2+ GPC in pairs.
   CXR shows possible new infiltrate, but patient improved clinically.
   Repeat CXR tomorrow and follow clinically.
   -cont. vanco/zosyn (day [**7-20**]), azithro (day [**5-11**]) for atypicals
   -albuterol MDI PRN
   # UTI
 Cx + E. Coli; sensitive to zosyn (completing a 14 day course
   for PNA)
   #Afib
 likely converted in the setting of PNA and volume overload,
   spontaneously reverted to SR
   -cont. lopressor 25 mg PO TID for rate control, may uptitrate as needed
   to achieve adeq. rate control
   -currently on ASA only
   -holding coumadin anticoagulation because of her fall risk
 need to
   confirm with PCP.
   #HTN
 has been hypo- to normotensive
   -restarted lopressor, may uptitrate as BP allows (was on 100 mg PO BID
   as outpt)
   #Tremor - evaluated by neurology during a recent admission, felt most
   likely essential tremor.  No seizure activity on EEG.
   #F/E/N - +2.7 L for [**Location 3549**] goal: -1 to 1.5 L x 24 hrs; patient has had good response to
   low-dose lasix; give another 10 mg IV x 1 this AM
   -monitor lytes daily
   -patient noted to swallow pills without problem.  Concern that her
   multiple PNAs may be due to aspiration.
   -advance diet to thick liquids and pureed foods with supervision during
   meals
   -consider speech consult for swallow eval
   #PPx
 SQH, PPI
   #CODE
 DNR
 reintubation is okay.
   #[**Hospital **]
 transfer to floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-8-16**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: